US04230623
16 G. of 5,5-dimethyl-2-phenyl-4-(p-dimethylaminophenyl)-1-pyrroline are dissolved in 300 ml. of absolute ethanol and treated with 16 g. of sodium borohydride. The solution is stirred under nitrogen at room temperature for 14 hours. It is subsequently evaporated to dryness under reduced pressure and the residue suspended in water by intensive stirring. The non-dissolved constituent is filtered off, dried and recrystallized, first from n-hexane and then from diisopropyl ether. There is obtained cis-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-phenyl-pyrrolidine, having a melting point of 117°-118° C.

reactant | 5,5-dimethyl-2-phenyl-4-(p-dimethylaminophenyl)-1-pyrroline | CC1(C(CC(=N1)C1=CC=CC=C1)C1=CC=C(C=C1)N(C)C)C | C20H24N2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | cis-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-phenyl-pyrrolidine | CN(C1=CC=C(C=C1)[C@@H]1C(N[C@@H](C1)C1=CC=CC=C1)(C)C)C | C20H26N2
